US08350028B2
N-[2-(2-Methoxy-benzylamino)-quinolin-6-yl]-2-(4-methyl-piperazin-1-yl)-acetamide
The title compound, MS: m/e=420.0 (M+H+), was prepared in accordance with the general method of example 16 from 2-chloro-6-nitro-quinoline, 2-methoxy-benzylamine and 4-methyl-piperazin-1-yl acetic acid.

reactant | 2-chloro-6-nitro-quinoline | ClC1=NC2=CC=C(C=C2C=C1)[N+](=O)[O-] | C9H5ClN2O2
reactant | 2-methoxy-benzylamine | COC1=C(CN)C=CC=C1 | C8H11NO
reactant | 4-methyl-piperazin-1-yl acetic acid | CN1CCN(CC1)CC(=O)O | C7H14N2O2
product | N-[2-(2-Methoxy-benzylamino)-quinolin-6-yl]-2-(4-methyl-piperazin-1-yl)-acetamide | COC1=C(CNC2=NC3=CC=C(C=C3C=C2)NC(CN2CCN(CC2)C)=O)C=CC=C1 | C24H29N5O2
